US07786044B2
25. Preparation of 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methylpyridine-2-carboxylic acid methyl ester
4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-pyridine-2-carboxylic acid methyl ester (500 mg, 1.29 mmol), tetramethyltin (924 mg, 5.17 mmol), bis(triphenylphosphine)palladium(II) dichloride (91 mg, 0.129 mmol), and tetrabutylammonium triphenyldifluorosilicate (1.395 g, 2.58 mmol) were combined in 2 mL of acetonitrile and heated in a CEM microwave reactor at 110° C. for 15 min. The resulting reaction mixture was filtered and concentrated. This intermediate product was purified by flash chromatography on silica gel (ethyl acetate/hexane gradient) to yield the title compound (419 mg, 88% yield). mp 182-184° C.

reactant | 4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-pyridine-2-carboxylic acid methyl ester | 1.29 mmol, 500 mg | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C16H13Cl2FN2O4
reactant | tetramethyltin | 5.17 mmol, 924 mg | C[Sn](C)(C)C
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.129 mmol, 91 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-methylpyridine-2-carboxylic acid methyl ester | 419 mg, 88% yield | COC(=O)C1=NC(=CC(=C1C)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C17H16ClFN2O4
